US07514437B2
2-Fluoro-5-formyl-1-benzofuran
A slurry of magnesium powder (219 mg) and iodine (cat) in dry tetrahydrofuran (3 ml) was heated at 50° C. under nitrogen for 20 minutes. 5-Bromo-2-fluoro-1-benzofuran (1.4 g) was dissolved in dry tetrahydrofuran (6 ml). A 1 ml portion of the solution was added to the slurry at 50° C. without stirring. After 30 minutes the rest of the solution was added slowly and the reaction was heated at reflux for 3 hours. The reaction was cooled in an ice/water bath and dimethylformamide (1 ml) was added dropwise maintaining the temperature below 10° C. After 1 hour a mixture of 2N hydrochloric acid (12.5 ml) and brine (12.5 ml) was added. The reaction mixture was extracted using ethyl acetate (3×25 ml). The combined organics were washed with brine and dried over anhydrous magnesium sulphate. The solvent was removed in vacuo and the residue applied to a silica cartridge (50 g). This was eluted with cyclohexane, cyclohexane/ethyl acetate (6:1, 5:1 v/v). This gave 2-fluoro-5-formyl-1-benzofuran (376 mg).

reactant | magnesium | 219 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | 5-Bromo-2-fluoro-1-benzofuran | 1.4 g | BrC=1C=CC2=C(C=C(O2)F)C1 | C8H4BrFO
reactant | hydrochloric acid | 2N, 12.5 ml | Cl | ClH
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | brine | 12.5 ml | [Cl-].[Na+].O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-Fluoro-5-formyl-1-benzofuran | FC=1OC2=C(C1)C=C(C=C2)C=O | C9H5FO2
